US06002008
6-Amino-4-[(3-isopropylphenyl)amino]-3-quinolinecarbonitrile
Added 0.5 g 10% palladium on carbon to a flask under N2 and covered with 250 ml ethanol. To this added 4.818 g (14.5 mmol) 4-[(3-isopropylphenyl)amino]-6-nitro-3-quinolinecarbonitrile and 1.14 ml (36.2 mmol) anhydrous hydrazine and heated to reflux. At 1.5 hours, filtered hot mixture through celite, stripped solvent, and dried in vacuo, giving 4.30 g of yellow solid: mass spectrum (electrospray m/e): M+H=303.1.

reactant | 4-[(3-isopropylphenyl)amino]-6-nitro-3-quinolinecarbonitrile | 14.5 mmol, 4.818 g | C(C)(C)C=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C19H16N4O2
reactant | hydrazine | 36.2 mmol, 1.14 ml | NN | H4N2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 6-Amino-4-[(3-isopropylphenyl)amino]-3-quinolinecarbonitrile | 4.30 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)C(C)C | C19H18N4
